US05604237
Diethyl (3-methyl-4-nitrobenzyl)malonate
To a solution of sodium ethanolate [prepared from 1.35 g Na in ethanol (30 ml)] were added diethyl malonate (9.2 ml) and then dropwise 3-methyl-4-nitrobenzyl bromide (13.4 g). The mixture was stirred 30 minutes at room temperature, then 30 minutes under reflux and then concentrated. The residue is treated with water and hexane, the precipitate filtered and the filtrate extracted with diethyl ether. The organic extract was dried on sodium sulfate and concentrate to give the title compound as an oil (4 g).

reactant | diethyl malonate | 9.2 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-methyl-4-nitrobenzyl bromide | 13.4 g | CC=1C=C(CBr)C=CC1[N+](=O)[O-] | C8H8BrNO2
solvent | sodium ethanolate | 30 ml, 1.35 g | C(C)[O-].[Na+]
product | Diethyl (3-methyl-4-nitrobenzyl)malonate | 4 g | CC=1C=C(CC(C(=O)OCC)C(=O)OCC)C=CC1[N+](=O)[O-] | C15H19NO6
